US04058568
Preparation of 1,2,3,4,9,9-hexachloro-1,4-dihydro-5,8-dihydroxy-1,4-methanonaphth-6-yl methyl ketone.
76 g. of 1,2,3,4,9,9-hexachloro-1,4-dihydro-1,4-methanonaphthalene-5,8-diol, prepared according to Example 2, were suspended in 100 ml. of acetic acid and then 20 ml. of boron trifluoride-diethyl ether complex were added. This mixture was heated at 100°-105° C for 5 hours. After being cooled to 40° C, the mixture was poured into ice water. After repeated recrystallization from benzene white crystals were obtained, m.p. 135°-140° C.

reactant | 1,2,3,4,9,9-hexachloro-1,4-dihydro-1,4-methanonaphthalene-5,8-diol | ClC12C(=C(C(C=3C(=CC=C(C13)O)O)(C2(Cl)Cl)Cl)Cl)Cl | C11H4Cl6O2
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | 1,2,3,4,9,9-hexachloro-1,4-dihydro-5,8-dihydroxy-1,4-methanonaphth-6-yl methyl ketone | CC(=O)C=1C(=C2C3(C(=C(C(C2=C(C1)O)(C3(Cl)Cl)Cl)Cl)Cl)Cl)O | C13H6Cl6O3
